US05541198
To 50 ml of dimethylformamide were added 2.9 g of 3-[1-(2-methylphenyl)-2-imidazolylsulfinyl]propanol and 3.4 g of 5-chloro-2-nitro-benzaldehyde dimethylacetal. To the mixture being stirred was added 0.75 g of 60% sodium hydride slowly. The mixture was stirred at 60° C. overnight. Thereto was added an aqueous solution saturated with ammonium chloride. The reaction mixture was concentrated. The residue was extracted with ethyl acetate. The extract was washed with water and an aqueous solution saturated with sodium chloride, dried with magnesium sulfate, and subjected to distillation to remove ethyl acetate. The residue was purified by a silica gel column chromatography (eluant: dichloromethane/methanol=1/0→50/1) to obtain 3.3 g of 1-(2-methylphenyl)-2-[3-(3-dimethoxymethyl-4-nitrophenoxy)propylsulfinyl]imidazole as a light yellow oil.

reactant | 3-[1-(2-methylphenyl)-2-imidazolylsulfinyl]propanol | 2.9 g | CC1=C(C=CC=C1)N1C(=NC=C1)S(=O)CCCO | C13H16N2O2S
reactant | 5-chloro-2-nitro-benzaldehyde dimethylacetal | 3.4 g | COC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])OC | C9H10ClNO4
reactant | sodium hydride | 0.75 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2-methylphenyl)-2-[3-(3-dimethoxymethyl-4-nitrophenoxy)propylsulfinyl]imidazole | 3.3 g | CC1=C(C=CC=C1)N1C(=NC=C1)S(=O)CCCOC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C22H25N3O6S
